* ============================================================
* Transistor Model: 2SC1815 (low-noise audio NPN)
*
* Japanese low-noise audio transistor. NF=1 (ideal emission
* coefficient) ensures Ic = Is * exp(Vbe/VT) holds cleanly
* for precision 1V/Oct exponential conversion.
* ============================================================
.model NPN_C1815 NPN(IS=2.04f BF=400 NF=1
+   VAF=100 IKF=80m ISE=12.5f NE=2
+   BR=3.377 NR=1 ISC=0 RC=1 RB=10 RE=0.5
+   CJC=3.638p MJC=0.3085 VJC=0.75 FC=0.5
+   CJE=4.493p MJE=0.2593 VJE=0.75
+   TR=239.5n TF=301.2p
+   XTI=3 EG=1.11 XTB=1.5)

* ============================================================
* LM358N dual op-amp macromodel (DIP-8 package)
*
* Pin order matches physical DIP-8 pinout for KiCad:
*   1=OUT_A  2=IN-_A  3=IN+_A  4=V-
*   5=IN+_B  6=IN-_B  7=OUT_B  8=V+
*
* Based on TI LM358 datasheet specifications:
*   Avol  = 100dB (100,000 V/V)
*   Ibias = 45nA (PNP input pair, current sourced out of pins)
*   Vos   = 2mV (input offset voltage, typical)
*   Rin   = 2MOhm (differential input impedance)
*   Rout  = 75 Ohm (open-loop output impedance)
* ============================================================
.subckt LM358N out_a inn_a inp_a vm inp_b inn_b out_b vp
*
* --- Section A ---
*
* Input bias currents (PNP input pair sources ~45nA out of each pin)
IbpA 0 inp_a DC 45n
IbnA 0 inn_a DC 45n
* Input offset voltage (up to 7mV, calibrated out in real build)
VosA inp_a intpA DC 0
* Differential input impedance
RinA intpA inn_a 2Meg
* Open-loop gain stage (100dB)
E1A intoutA 0 intpA inn_a 100000
* Output impedance
RoutA intoutA out_a 75
*
* --- Section B ---
*
* Input bias currents
IbpB 0 inp_b DC 45n
IbnB 0 inn_b DC 45n
* Input offset voltage
VosB inp_b intpB DC 0
* Differential input impedance
RinB intpB inn_b 2Meg
* Open-loop gain stage (100dB)
E1B intoutB 0 intpB inn_b 100000
* Output impedance
RoutB intoutB out_b 75
.ends LM358N
