* Precision Sawtooth Oscillator Core with Active BJT Reset
.title Sawtooth relaxation oscillator with LM358, LM393 and BC337

.lib "../../../models/vetco_eurorack.lib"

* Power Supplies
VCC vcc 0 DC 12
VEE vee 0 DC -12

* Input Voltage control referenced to VEE (targeting ~1kHz oscillation)
* V_IN = 8.5mV above VEE gives ~120uA current to charge 10nF over 12V swing in 1ms
V_IN vin_ctrl vee DC 8.5m

* --- Precision VCCS Current Source (referenced to VEE) ---
* Pinout of LM358N_SEC: IN+ IN- V+ V- OUT
XU1 vin_ctrl v_emit vcc vee v_base LM358N_SEC
Q1 v_ramp v_base v_emit BC337
R_SET v_emit vee 50

* --- Integrator Capacitor ---
C1 v_ramp 0 0.01u

* --- Schmitt Trigger Comparator (LM393) ---
* Pinout of LM393_SEC: IN+ IN- V+ V- OUT
XU2 v_comp_in+ v_ramp vcc vee v_comp_out LM393_SEC

* Schmitt Hysteresis Resistors for +/-6V Trigger Points
R_FB1 v_comp_out v_comp_in+ 10k
R_FB2 v_comp_in+ 0 10k
R_PULLUP vcc v_comp_out 2.2k

* --- High-Speed Active Reset Switch ---
R_LIMIT vcc vcc_lim 220
Q_RESET vcc_lim v_base_reset v_ramp BC337
R_RESET v_comp_out v_base_reset 4.7k

* --- High-Fidelity Open-Collector Comparator Model ---
.SUBCKT LM393_SEC 1 2 3 4 5
* Pins: IN+ IN- VCC VEE OUT
Q1 6 2 8 QPNP
Q2 7 1 8 QPNP
R1 6 4 10k
R2 7 4 10k
C_INT1 6 4 1p
C_INT2 7 4 1p
I1 3 8 DC 100u
G1 4 10 7 6 10m
R3 10 4 1Meg
C_INT3 10 4 1p
Q3 5 10 4 QNPN
.model QPNP pnp(bf=100)
.model QNPN npn(bf=100)
.ends LM393_SEC

* --- Simulation Command ---
.tran 1u 10m 0 1u

.end

.options savecurrents
